US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one
To the mixture of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt (0.83 g, 2.5 mmol), (thymin-1-yl)-acetic acid (0.46 g, 2.5 mmol), and PyBOP (1.43 g, 2.75 mmol) in DMF (12 mL) was added diisopropylethylamine (0.61 ml, 3.75 mmol) at ambient temperature. The resulting reaction mixture was stirred for 4 h at the same temperature and the solvent was removed in vacuo. The residue was dissolved in dichloromethane (20 mL) and the solution was washed with water, saturated sodium bicarbonate solution, 1N HCl solution, and saline. The resulting solution was dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo. The resulting residue was recrystallized in dichloromethane-ethyl ether to afford the title compound. 1H NMR (500 MHz; DMSO-d6) δ 11.30 (d, 1H), 8.34 (d, 1H), 8.26 (m, 1H), 7.71 (m, 2H), 7.34 (s, 0.6H), 7.27 (s, 0.4) 4.67 (s, 1.2H), 4.57 (s, 0.8H), 4.42 (s, 0.8H), 4.27 (s, 1.2H), 4.21 (t, 1.2H), 4.07 (t, 0.8H), 3.95 (t, 1.2H), 3.85 (t, 0.8H), 1.74 (s, 3H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | 2.5 mmol, 0.83 g | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | (thymin-1-yl)-acetic acid | 2.5 mmol, 0.46 g | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
reactant | PyBOP | 2.75 mmol, 1.43 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 3.75 mmol, 0.61 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 1-(Benzothiazole-2-sulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C(=O)NC(=O)C(C)=C2)=O)=O | C18H17N5O6S2
